data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3383,3843,[CH3:10][O:11][C:12](=[O:13])[N:14]=[N+:15]([CH3:16])[NH-:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][NH:17][N:15]([CH3:16])[N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,31.04741548842304,-4.112290252618179
4430,5062,[CH3:9][O:10][C:11](=[O:12])[N-:13][O+:14]=[C:15]([C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([O:10][CH3:9])=[O:12])[O:14][C:15]1([C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,11.104746476802507,-46.217239246322094
5130,5825,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([C:19]#[N:20])[O+:21]=[C:22]([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([C:19]#[N:20])[O:21][C:22]2([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,19.89307894591904,-14.496639557776144
2099,2327,[CH3:20][C:21](=[O:22])[CH:23]=[O+:24][N-:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([Cl:9])([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][CH2:17][CH2:18][CH2:19]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([Cl:9])([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)[CH2:16][CH2:17][CH2:18][CH2:19]1)[N:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[O:24][CH:23]2[C:21]([CH3:20])=[O:22],water,298.15,12.6283328893414,-74.55414556902242
67,78,[CH3:1][C:2]#[C:3][F:4].[CH3:5][NH:6][C:7](=[O:8])[C:9](=[NH+:10][CH-:11][C:12]#[N:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][C:2]1=[C:3]([F:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:14]([CH3:15])=[O:16])[NH:10][CH:11]1[C:12]#[N:13],water,298.15,20.9041930848647,-54.66515195407658
2334,2592,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17](=[O:18])[NH:19][CH3:20])=[N+:21]([CH3:22])[C-:23]([C:24](=[O:25])[NH:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17](=[O:18])[NH:19][CH3:20])[N:21]([CH3:22])[C:23]2([C:24](=[O:25])[NH:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,44.33394538671321,-16.631044744211678
3829,4383,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[NH:14][CH3:15])=[N+:16]([CH3:17])[N-:18][C:19]#[N:20]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:18]([C:19]#[N:20])[N:16]([CH3:17])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12](=[O:13])[NH:14][CH3:15],water,298.15,35.44731244144468,-4.8806466535343285
668,728,[CH3:1][O:2][C:3]#[C:4][Br:5].[CH3:6][O:7][C:8](=[O:9])[C:10]#[N+:11][C-:12]([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[C:12]([CH3:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:11]=[C:10]1[C:8]([O:7][CH3:6])=[O:9],water,298.15,16.486816185645367,-72.52049412360205
729,791,[CH3:11][C:12](=[O:13])[C-:14]([C:15]([CH3:16])=[O:17])[N+:18]([CH3:19])=[C:20]([CH3:21])[C:22]#[N:23].[CH3:1][O:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:14]([C:12]([CH3:11])=[O:13])([C:15]([CH3:16])=[O:17])[N:18]([CH3:19])[C:20]1([CH3:21])[C:22]#[N:23],water,298.15,28.00641500940277,-40.39631080304051
4665,5320,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C:11](=[NH+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[NH:12][C:11]1([C:9]([O:8][CH3:7])=[O:10])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,32.54018604001893,3.2399958506035538
3853,4409,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16]([CH3:17])[c:18](=[O:19])[o:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]2([CH3:17])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[O:20][C:18]2=[O:19],water,298.15,23.957738018204022,-0.7655123244177064
1629,1800,[CH3:15][O:16][C:17](=[O:18])[CH:19]=[O+:20][C-:21]([CH3:22])[C:23]#[N:24].[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:21]([CH3:22])([C:23]#[N:24])[O:20][CH:19]2[C:17]([O:16][CH3:15])=[O:18],water,298.15,9.379503662312418,-69.97029103774581
